US07615651B2
Preparation of Intermediate 2′-Chloro-4′-formyl-biphenyl-3-carbonitrile (I-6b)
Trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester (I-6a: 10.0 g), 3-cyano-phenyl-boronic acid (5.26 g) and palladium tetrakis(triphenylphosphine) (3.00 g) were combined in 100 mL of dimethoxyethane, then treated with 10 mL of a 2M aqueous sodium carbonate solution before being heated in a 100° C. oil bath. After 24 hours, the reaction mixture was cooled to ambient temperature, the organic phase was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by chromatography on silica gel eluting with 10% ethyl acetate in heptane to afford the title compound (I-6b).

reactant | Trifluoro-methanesulfonic acid 2-chloro-4-formyl-phenyl ester | 10.0 g | ClC1=C(C=CC(=C1)C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
reactant | 3-cyano-phenyl-boronic acid | 5.26 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 100 mL | C(OC)COC | C4H10O2
catalyst | palladium tetrakis(triphenylphosphine) | 3.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 2′-Chloro-4′-formyl-biphenyl-3-carbonitrile | ClC1=C(C=CC(=C1)C=O)C1=CC(=CC=C1)C#N | C14H8ClNO
